US06514993B1
A mixture of 4-butyrolactone (54 g) and aminoacetaldehyde dimethylacetal (55 g) in tetrahydrofuran (THF) (500 mL) was refluxed for 4 h. A further portion of aminoacetaldehyde dimethylacetal (27 g) was added followed by reflux for 2 h. Reflux was continued and two further portions of acetal were added at 2 h intervals. Concentration of the reaction mixture in vacuo followed by destillation of the remaining oil gave N-(2,2-dimethoxyethyl)-4-hydroxybutyramide as an oil, bp. 230° C./10 torr, yield 72 g. The oil was dissolved in dry THF (800 mL) and added slowly to a suspension of of lithium aluminium hydride in THF (200 mL). After reflux for 16 h, the reaction mixture was cooled and subsequently quenched with water (88 mL), 15% NaOH solution (44 mL), and water (220 mL). Filtration and removal of solvent in vacuo gave an oil which was dissolved in methylene chloride (500 mL) and dried over magnesium sulfate. Filtration and removal of solvent in vacuo gave 4-(2,2-dimethoxyethylamino)-1-butanol as an oil, yield 62 g. A portion of the oil (20 g) was dissolved in methylene chloride (100 mL) and added dropwise to a solution of cyclohexylisocyanate in methylene chloride (50 mL) at 5° C. Reflux for 3 h and concentration in vacuo gave N-cyclohexyl-N′-(2,2-dimethoxyethyl)-N′-(4-hydroxy-1-butyl)urea as an oil, yield 35 g. The oil was dissolved in a mixture of THF (200 mL) and 2 M hydrochloric acid (200 mL) followed by reflux for 24 h. The reaction mixture was concentrated in vacuo followed by addition of ethyl acetate (300 mL) and 4 M NaOH (300 mL). The organic phase was dried over magnesium sulfate. Removal of solvent gave 1-cyclohexyl-3-(4-hydroxy-1-butyl)-1,3-dihydroimidazol-2-one as an oil, yield 29 g. The oil was dissolved in methylene chloride (250 mL) and triethylamine (13 g) was added followed by cooling to 5° C. A solution of methanesulfonyl chloride (14 g) in methylene chloride (20 mL) was added dropwise followed by stirring for 1.5 h at room temperature. The reaction mixture was washed with water, dried over magnesium sulfate and concentrated in vacuo giving the title compound as an oil, yield 36 g. 1H NMR (CDCl3): δ 1.05-1.25 (m, 1H), 1.30-1.50 (m, 4H), 1.60-2.00

reactant | 4-butyrolactone | 54 g | C1(CCCO1)=O | C4H6O2
reactant | aminoacetaldehyde dimethylacetal | 55 g | COC(CN)OC | C4H11NO2
reactant | aminoacetaldehyde dimethylacetal | 27 g | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | N-(2,2-dimethoxyethyl)-4-hydroxybutyramide | COC(CNC(CCCO)=O)OC | C8H17NO4
